US07320973B2
(R)-2-Fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-3-yl]dibenzo[b,e][1,4]oxazepine dihydrochloride
1.0 ml of 4 M hydrogen chloride/ethyl acetate was added to a solution of (R)-2-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-3-yl]dibenzo[b,e][1,4]oxazepine (140 mg) in dichloromethane (5 ml), and they were stirred together for 1 hour. The solvent was evaporated under reduced pressure. The obtained residue was solidified by stirring it in hexane and then filtered to obtain the title compound in the form of a light yellow solid (145 mg, 90%).

reactant | hydrogen chloride ethyl acetate | 4 M, 1.0 ml | Cl.C(C)(=O)OCC
reactant | (R)-2-fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-3-yl]dibenzo[b,e][1,4]oxazepine | 140 mg | FC1=CC2=C(N(C3=C(OC2)C=CC=C3)[C@H]3CN(CC3)CCC3=CC=C(C=C3)N(C)C)C=C1 | C27H30FN3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-2-Fluoro-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)pyrrolidin-3-yl]dibenzo[b,e][1,4]oxazepine dihydrochloride | Cl.Cl.FC1=CC2=C(N(C3=C(OC2)C=CC=C3)[C@H]3CN(CC3)CCC3=CC=C(C=C3)N(C)C)C=C1 | InChI=1S/C27H30FN3O.2ClH/c1-29(2)23-10-7-20(8-11-23)13-15-30-16-14-24(18-30)31-25-12-9-22(28)17-21(25)19-32-27-6-4-3-5-26(27)31;;/h3-12,17,24H,13-16,18-19H2,1-2H3;2*1H/t24-;;/m1../s1
